US07585875B2
A mixture of 500 mg (2 mmol) of 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one, 478 ul (4.8 mmol) of piperidine and 50 mg of NaI in 4 ml of MeOH was stirred at 50° C. overnight. The residue obtained after evaporation of the solvent was purified on an Al2O3 column. The fractions containing purified product were titrated with 4N HCl-dioxane to obtain a precipitate. Recrystallization from isopropanol/ether produced 175 mg of 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-(piperidin-1-yl)propan-1-one hydrochloride. Compound 1036.

reactant | 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 2 mmol, 500 mg | ClC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C13H15ClN2O
reactant | piperidine | 4.8 mmol, 478 ul | N1CCCCC1 | C5H11N
reactant | NaI | 50 mg | [Na+].[I-]
solvent | MeOH | 4 ml | CO | CH4O
product | 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-(piperidin-1-yl)propan-1-one hydrochloride | 175 mg | Cl.C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)N1CCCCC1)=O | InChI=1S/C18H25N3O.ClH/c1-13(2)17-16(15-9-5-8-12-21(15)19-17)18(22)14(3)20-10-6-4-7-11-20;/h5,8-9,12-14H,4,6-7,10-11H2,1-3H3;1H
